US04609662
A mixture of 0.82 g (3.92 mM) of 9-(2-hydroxyethoxymethyl)-2-amino-9H-purine, 48 mg (0.392 mM) of a 4-dimethylaminopyridine and 0.75 ml (7.84 mM) of acetic anhydride in 18 ml of dry dimethylformamide was stirred at room temperature for two days. The reaction mixture was evaporated in vacuo and the residue dissolved in ethyl acetate and absorbed on silica gel. The solvent was removed by flash evaporation and the residual powder added to a column prepared for flash chromatography. Elution with 5% methanol in dichloromethane gave 1.0 g of a semicrystalline oil which on recrystallization from benzene-hexane gave analytically pure 9-(2-acetoxyethoxymethyl)-2-amino-9H-purine, mpt. 115°-118° C. An additional crop was obtained from the mother liquor.

reactant | 9-(2-hydroxyethoxymethyl)-2-amino-9H-purine | 3.92 mM, 0.82 g | OCCOCN1C2=NC(=NC=C2N=C1)N | C8H11N5O2
reactant | acetic anhydride | 7.84 mM, 0.75 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.392 mM, 48 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | 9-(2-acetoxyethoxymethyl)-2-amino-9H-purine | C(C)(=O)OCCOCN1C2=NC(=NC=C2N=C1)N | C10H13N5O3
